US06174884B1
1-[1-(1-Hydroxy-ethyl)-4-phenyl-butyl]-6-(4-methyl-benzyl)-1,5-dihydro-pyrazolo[3,4-d]-pyrimidin-4-one
Starting from 400 g (1.32 mmol) of 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide and 578 mg (3.44 mmol) of 4-methylphenylacetylchloride, the title compound is prepared analogously to the protocol of Example 13. This gives 117 mg (21%) of the diastereomer which elutes more rapidly, M.p.: 133° C., and 75 mg (13.6%) of the diastereomer which elutes more slowly, M.p.: 136° C.

reactant | 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide | 1.32 mmol, 400 g | NC1=C(C=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C16H22N4O2
reactant | 4-methylphenylacetylchloride | 3.44 mmol, 578 mg | CC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO
product | 1-[1-(1-Hydroxy-ethyl)-4-phenyl-butyl]-6-(4-methyl-benzyl)-1,5-dihydro-pyrazolo[3,4-d]-pyrimidin-4-one | OC(C)C(CCCC1=CC=CC=C1)N1N=CC2=C1N=C(NC2=O)CC2=CC=C(C=C2)C | C25H28N4O2
